US08168651B2
5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-8-carbohydrazide (1.0 eq, 21 mg, 0.057 mmol) was suspended in triethyl orthoformate (0.5 ml) and the mixture reacted in a microwave reactor at 120° C. for 80 minutes. The precipitate that formed upon cooling was filtered and dried to afford N-(3-chlorophenyl)-8-(1,3,4-oxadiazol-2-yl)benzo[c][2,6]naphthyridin-5-amine as a solid (12 mg, 56% yield). LCMS (ES): 95% pure, m/z 374 [M+1]+.

reactant | 5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-8-carbohydrazide | 0.057 mmol, 21 mg, 1.0 eq | ClC=1C=C(C=CC1)NC1=NC2=C(C3=CN=CC=C13)C=CC(=C2)C(=O)NN | C19H14ClN5O
reactant | triethyl orthoformate | 0.5 ml | C(OCC)(OCC)OCC | C7H16O3
product | N-(3-chlorophenyl)-8-(1,3,4-oxadiazol-2-yl)benzo[c][2,6]naphthyridin-5-amine | 12 mg, 56% yield | ClC=1C=C(C=CC1)NC1=NC2=C(C3=CN=CC=C13)C=CC(=C2)C=2OC=NN2 | C20H12ClN5O
